US07304156B2
In a 1000 mL-volume glass flask equipped with a stirrer, a thermometer and a reflux condenser were placed 50.0 g (172 mmol.) of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine, 20.8 g (189 mmol.) of sodium t-pentoxide, and 344 mL of acetonitrile, and the resulting mixture was stirred at 0-10° C. for 30 minutes. To the mixture was slowly added 36.1 g (189 mmol.) of p-toluenesulfonyl chloride, and the reaction was carried out at for 5 hours at room temperature. Subsequently, the reaction mixture was cooled to a temperature of 0-10° C. To the cooled reaction mixture were added 28.2 g (258 mmol.) of N-methylmethanesulfonamide and 26.5 g (241 mmol.) of sodium t-pentoxide. The mixture was kept at 0-10° C. for one hour and then heated to 75-82° C. for 2 hours under refluxing, to carry out a reaction. After the reaction was complete, the mixture was cooled to room temperature. To the cooled mixture was added 344 mL of water. The aqueous mixture was cooled to 0-10° C. and stirred for one hour, precipitating a crystalline product. The crystalline product was collected by filtration and dried, to obtain 45.3 g of 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine as a pale yellow crystalline product. The yield was 68% (based on the amount of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine).

reactant | 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine | 172 mmol, 50.0 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)O | C15H15FN2O3
reactant | acetonitrile | 344 mL | C(C)#N | C2H3N
reactant | p-toluenesulfonyl chloride | 189 mmol, 36.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-methylmethanesulfonamide | 258 mmol, 28.2 g | CNS(=O)(=O)C | C2H7NO2S
solvent | water | 344 mL | O | H2O
product | 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine | 45.3 g, yield was 68% | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)N(S(=O)(=O)C)C | C17H20FN3O4S
